US06080868
Preparation of 6-nitrobenzothiazole 1
See FIG. 3A. Nitration of 2-methylbenzothizole was performed following the method of Mizuno, J Pharm. Soc. Japan, 72, 745 (1952). A mixture of fuming nitric acid (1.6 mL) and concentrated sulfuric acid (1.2 mL) was added to an ice-cooled solution of 2-methylbenzothiazole (2 g) in sulfuric acid (8 mL). The solution was allowed to warm to room temperature for one hour, then poured onto 100 mL of ice. The solid was filtered, washed with water, and recrystallized from ethanol (80 mL) to provide 2.5 g of yellowish needles.

reactant | nitric acid | 1.6 mL | [N+](=O)(O)[O-] | HNO3
reactant | 2-methylbenzothiazole | 2 g | CC=1SC2=C(N1)C=CC=C2 | C8H7NS
solvent | sulfuric acid | 8 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 1.2 mL | S(O)(O)(=O)=O | H2O4S
product | 6-nitrobenzothiazole | 2.5 g | [N+](=O)([O-])C1=CC2=C(N=CS2)C=C1 | C7H4N2O2S
